US04774253
40 g (0.41 mol) of concentrated sulphuric acid were added dropwise while stirring to 150 g (3.3 mol) of formamide, the temperature of the solution being held below 10° C. by cooling with ice. 50 g (0.2 mol) of (4-chlorobenzoyl)methyl ethoxyacetate were added and the solution was stirred and heated at 140° C. for 2 hours. The mixture was cooled, poured into 2 l of water, acidified to pH 1 by the addition of concentrated hydrochloric acid and extracted once with 500 ml of toluene and then twice with 250 ml of toluene each time. The combined toluene extracts were washed with water, dried over sodium sulphate, filtered and evaporated. The residual syrup was extracted with 700 ml of hot petrol (b.p. 60°-80° C.). The solution was evaporated to dryness and the residue was redissolved in 150 ml of hot petrol (b.p. 40°-60° C.). Upon cooling in acetone/CO2 the product crystallized and was filtered off rapidly and dried to give 21.7 g (47%) of 4-(4-chlorophenyl)-2-ethoxymethyl-oxazole in the form of a soft solid of indeterminate melting point.

reactant | sulphuric acid | 0.41 mol, 40 g | S(O)(O)(=O)=O | H2O4S
reactant | formamide | 3.3 mol, 150 g | C(=O)N | CH3NO
reactant | (4-chlorobenzoyl)methyl ethoxyacetate | 0.2 mol, 50 g | C(C)OCC(=O)OCC(C1=CC=C(C=C1)Cl)=O | C12H13ClO4
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2 l | O | H2O
product | 4-(4-chlorophenyl)-2-ethoxymethyl-oxazole | 21.7 g, 47% | ClC1=CC=C(C=C1)C=1N=C(OC1)COCC | C12H12ClNO2
